US08426420B2
i) 3-tert-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester
A mixture of 2.05 g 3-(tert-butoxycarbonylamino)pyrrolidine, 1.85 g NaHCO3 and 3.17 g N-(Benzyloxycarbonyloxy)succinimide in 10 ml dioxane/water 1:1 was stirred for 12 h at RT. The reaction mixture was diluted with ethyl acetate, the phases separated and the organic phase washed with saturated NaHCO3 and brine. The crude product obtained after evaporation of the solvent was used in the next reaction step without further purification.

reactant | 3-(tert-butoxycarbonylamino)pyrrolidine | 2.05 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | NaHCO3 | 1.85 g | C(=O)(O)[O-].[Na+]
reactant | N-(Benzyloxycarbonyloxy)succinimide | 3.17 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | dioxane water | 10 ml | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-tert-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)NC(=O)OC(C)(C)C | C17H24N2O4
